US09193692B2
2-(5-Bromo-4-methylpyridin-2-yl)propan-2-ol (2.33 g, 10.13 mmol) and tetrakis(triphenylphosphine)palladium(0) (1.045 g, 1.013 mmol) were added to a pressure tube and suspended in 1,4-dioxane (33.8 mL). 1,1,1,2,2,2-Hexamethyldistannane (2.99 mL, 12.15 mmol) was then added and heated to 150° C. for 30 min. The reaction was allowed to cool to rt and was filtered through celite and washed with ethyl acetate. Organic volatiles were removed under reduced pressure followed by an extraction in ethyl acetate (3×200 mL) and water. Organic volatiles were removed under reduced pressure and the compound purified using silica gel column chromatography on an Biotage column (10-50% ethyl acetate in hexanes) to afford 2-(4-methyl-5-(trimethylstannyl)pyridin-2-yl)propan-2-ol (1.75 g, 5.57 mmol, 55.0% yield). 1H NMR (400 MHz, DMSO-d6) δ (ppm) 8.31 (s, 1H), 7.51 (s, 1H), 5.25 (br. s., 1H), 2.37 (s, 3H), 1.41 (s, 6H), 0.65 (br. s., 3H), 0.34 (s, 6H).

reactant | 2-(5-Bromo-4-methylpyridin-2-yl)propan-2-ol | 10.13 mmol, 2.33 g | BrC=1C(=CC(=NC1)C(C)(C)O)C | C9H12BrNO
reactant | 1,1,1,2,2,2-Hexamethyldistannane | 12.15 mmol, 2.99 mL | C[Sn]([Sn](C)(C)C)(C)C
solvent | 1,4-dioxane | 33.8 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.013 mmol, 1.045 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-methyl-5-(trimethylstannyl)pyridin-2-yl)propan-2-ol | 5.57 mmol, 1.75 g, 55.0% yield | CC1=CC(=NC=C1[Sn](C)(C)C)C(C)(C)O | InChI=1S/C9H12NO.3CH3.Sn/c1-7-4-5-10-8(6-7)9(2,3)11;;;;/h5-6,11H,1-3H3;3*1H3;
